US08217035B2
To a solution of 6-fluoro-2-pyridylamine (1.0 g, 8.93 mmol) in chloroform (55 mL) was added N-bromosuccinimide (1.59 g, 8.93 mmol). The solution was stirred in the dark for 15 hours, at which time it was added to CH2Cl2 (200 mL) and 1N NaOH (50 mL). Upon mixing, the layers were separated and the organic layer was washed with NaCl(sat.) (50 mL), dried over Na2SO4, filtered and concentrated. The crude material was purified by SiO2 chromatography (25% EtOAc/hexanes) yielding 5-bromo-6-fluoro-2-pyridylamine (386 mg, 22%). LCMS (m/z): 190.9/192.9 (MH+); 1H NMR (CDCl3): δ 7.59 (t, J=8.7 Hz, 1H), 6.25 (dd, J=8.1, 1.2 Hz, 1H), 4.58 (bs, 1H).

reactant | 6-fluoro-2-pyridylamine | 8.93 mmol, 1.0 g | FC1=CC=CC(=N1)N | C5H5FN2
reactant | N-bromosuccinimide | 8.93 mmol, 1.59 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
reactant | NaOH | 1N, 50 mL | [OH-].[Na+]
solvent | chloroform | 55 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-bromo-6-fluoro-2-pyridylamine | 386 mg, 22% | BrC=1C=CC(=NC1F)N | C5H4BrFN2
